US07820821B2
A solution of the amide from above (1 mmol) in dioxane (2 mL) was reacted with aqueous NH4OH using the conditions described in Example 115. After the formation of 4-amino-2-chloro-N-(5-methyl-1H-indazol-6-yl)-5-nitrobenzamide was complete, charged with piperazine (5 mmol). The contents were heated at reflux for 10 h and the reaction mixture was cooled to RT. The contents were poured onto ice cold water with vigorous stirring. The solid formed was collected by filtration, washed with water, and dried in vacuo to provide the product, 4-amino-N-(5-methyl-1H-indazol-6-yl)-5-nitro-2-piperazin-1-yl-benzamide as a yellow solid.

reactant | NH4OH | [NH4+].[OH-]
reactant | 4-amino-2-chloro-N-(5-methyl-1H-indazol-6-yl)-5-nitrobenzamide | NC1=CC(=C(C(=O)NC2=C(C=C3C=NNC3=C2)C)C=C1[N+](=O)[O-])Cl | C15H12ClN5O3
reactant | piperazine | 5 mmol | N1CCNCC1 | C4H10N2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-amino-N-(5-methyl-1H-indazol-6-yl)-5-nitro-2-piperazin-1-yl-benzamide | NC1=CC(=C(C(=O)NC2=C(C=C3C=NNC3=C2)C)C=C1[N+](=O)[O-])N1CCNCC1 | C19H21N7O3
